US09334426B2
Coumarin (0.3775 g, 2.583 mmol), 2.0 equimolar of n-hexylamine (0.5324 g, 5.261 mmol) and 0.1 equimolar of DBU (0.0418 g, 0.275 mmol) were added and mixed in bulk. The mixture was reacted in an oven and kept at 50° C. for 10 days. The resultant crude mixture was separated by preparative Thin Layer Chromatography (TLC) (eluent: ethylacetate/n-hexane=1/4 (vol./vol.)) to give corresponding coumarin monoamine (1:2) adduct (0.8287 g, 2.378 mmol, yield=92%).

reactant | Coumarin | 2.583 mmol, 0.3775 g | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
reactant | n-hexylamine | 5.261 mmol, 0.5324 g | C(CCCCC)N | C6H15N
reactant | DBU | 0.275 mmol, 0.0418 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | coumarin monoamine | O1C(=O)C(=CC2=CC=CC=C12)N | C9H7NO2
